Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
bacteremia, right 4mm UVJ stone (nephrolithiasis)
 
Major Surgical or Invasive Procedure:
1. Cystoscopy.
2. Right retrograde pyelogram.
3. Right rigid ureteroscopy.
4. Placement of right double-J ureteral stent.

 
History of Present Illness:
___ no significant PMH presented with abd/flank pain to ED, had 
labs drawn. Elevated WBC, obs overnight, pain resolved and sent 
home. Called back in for positive blood culture (GNRs). In ED, 
patient without significant pain or urinary symptoms. UA with 
WBCs but no bacteria or nitrites. Received levaquin in ED. 
Ordered for ceftriaxone to start ___.
 
Past Medical History:
BASAL CELL CANCER                                               
HIRSUTISM                                                       
MENOPAUSE                                                       
OSTEOPENIA                                                      
SEBORRHEIC DERMATITIS  No Surgical History currently on file.
 
Social History:
Marital status:     Married, # years: 34                        
Children:           Yes: 3 kids...1 grandchildren               
Lives with:         ___                            
Lives in:           House                                       
Work: ___
Multiple partners:  ___                                      
___ activity:    Past and Present                            
Sexual orientation: Male                                        
Sexual Abuse:       Denies                                      
Domestic violence:  Denies                                      
Contraception:      N/A                                         
Tobacco use:        Former smoker                               
     Year Quit:     ___                                        
     Years Since    3                                           
     Quit:                                                      
     # Packs/Day:    .5                                         
     # Years Smoked: 10                                         
     Pack Years:    5                                           
Alcohol use:        Past and Present                            
drinks per week:    1                                           
Recreational drugs  Denies                                      
(marijuana, heroin,                                             
crack pills or                                                  
other):                                                         
Depression:         Patient already being treated for depression
Exercise:           Activities                                  
Seat belt/vehicle   Always           
 
Family History:
Mother    ___  ___  DIABETES MELLITUS                       

Father    ___  ___                                          

Brother   Living    ___   
 
Physical Exam:
WdWn female, NAD, AVSS
Interactive, cooperative
Abdomen soft, Nt/Nd
Flank pain on right minimal w/ percussion at CVA
Lower extremities w/out edema or pitting and no report of calf 
pain
 
Pertinent Results:
___ 07:50AM BLOOD WBC-9.1 RBC-3.51* Hgb-10.7* Hct-32.5* 
MCV-93 MCH-30.5 MCHC-32.9 RDW-13.2 RDWSD-44.6 Plt ___
___ 07:57AM BLOOD WBC-10.9* RBC-3.78* Hgb-11.3 Hct-34.7 
MCV-92 MCH-29.9 MCHC-32.6 RDW-13.2 RDWSD-44.4 Plt ___
___ 06:41PM BLOOD WBC-14.0* RBC-3.98 Hgb-11.9 Hct-36.3 
MCV-91 MCH-29.9 MCHC-32.8 RDW-13.0 RDWSD-43.4 Plt ___
___ 06:10AM BLOOD WBC-18.4* RBC-3.88* Hgb-11.8 Hct-35.5 
MCV-92 MCH-30.4 MCHC-33.2 RDW-12.9 RDWSD-42.7 Plt ___
___ 10:26PM BLOOD WBC-17.8*# RBC-4.17 Hgb-12.8 Hct-38.5 
MCV-92 MCH-30.7 MCHC-33.2 RDW-12.8 RDWSD-43.6 Plt ___

___ 07:50AM BLOOD Neuts-70.7 Lymphs-16.4* Monos-10.7 
Eos-1.5 Baso-0.3 Im ___ AbsNeut-6.39* AbsLymp-1.49 
AbsMono-0.97* AbsEos-0.14 AbsBaso-0.03
___ 10:26PM BLOOD Neuts-86.8* Lymphs-6.4* Monos-5.4 
Eos-0.3* Baso-0.4 Im ___ AbsNeut-15.42* AbsLymp-1.13* 
AbsMono-0.96* AbsEos-0.05 AbsBaso-0.07

___ 07:50AM BLOOD Glucose-109* UreaN-10 Creat-0.7 Na-140 
K-4.2 Cl-106 HCO3-25 AnGap-13
___ 07:57AM BLOOD Glucose-110* UreaN-12 Creat-0.9 Na-141 
K-4.2 Cl-105 HCO3-28 AnGap-12
___ 10:26PM BLOOD Glucose-117* UreaN-31* Creat-1.1 Na-141 
K-4.7 Cl-104 HCO3-25 AnGap-17

___ 10:26PM BLOOD ALT-14 AST-21 AlkPhos-84 TotBili-0.5
___ 10:26PM BLOOD Albumin-4.2

___ 08:55AM URINE Color-Straw Appear-Hazy Sp ___
___ 10:26PM URINE Color-Yellow Appear-Hazy Sp ___
___ 08:55AM URINE Blood-SM  Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-LG
___ 10:26PM URINE Blood-MOD Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG
___ 08:55AM URINE RBC-10* WBC->182* Bacteri-NONE Yeast-NONE 
Epi-<1
___ 10:26PM URINE RBC-75* WBC-29* Bacteri-NONE Yeast-NONE 
Epi-1
___ 10:26PM URINE CastHy-3*

Time Taken Not Noted     Log-In Date/Time: ___ 2:09 am
      BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      ESCHERICHIA COLI.    FINAL SENSITIVITIES. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

   Anaerobic Bottle Gram Stain (Final ___: 
      Reported to and read back by ___ AT  15:40 ON 
___. 
      GRAM NEGATIVE ROD(S). 

___ 10:26 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
         PRESUMPTIVE IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

Time Taken Not Noted     Log-In Date/Time: ___ 12:36 am
      URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI. 
         >100,000 ORGANISMS/ML. PRESUMPTIVE IDENTIFICATION. 
         IDENTIFICATION AND SENSITIVITIES PERFORMED ON CULTURE # 
___-___
         (___). 

___ BLOOD CULTURE Blood Culture, Routine-PENDING 
INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 


 
Brief Hospital Course:
Ms. ___ was admitted to Dr. ___ 
for nephrolithiasis management with a known bacteremia, urinary 
tract infection. She was started on empiric intravenous 
antibiotics and prepared for urgent intervention with placement 
of ureteral stent. She was taken to the OR on hospital day two 
where she underwent cystoscopy, retrograde pyelogram and right 
ureteral stent placement. She tolerated the procedure well and 
recovered in the PACU before transfer back to the general 
surgical floor. See the dictated operative note for full 
details. Overnight, Ms. ___ was hydrated with 
intravenous fluids and received appropriate perioperative 
prophylactic antibiotics. Intravenous fluids, Toradol and Flomax 
were given to help facilitate passage of stones.  On POD1, after 
identification and sensitivities posted, she was discharged home 
with oral antibiotics and a plan to return for in-office 
ureteral stent extraction. She was discharged with pain well 
controlled with oral pain medications, tolerating regular diet, 
ambulating without assistance and voiding without difficulty.  
She was explicitly advised to follow up as directed as the 
indwelling ureteral stent must be removed and or exchanged and 
to continue with the antibiotics until course completed. 

 
Medications on Admission:
Active Medication list as of ___:
 
Medications - Prescription
ESCITALOPRAM OXALATE [LEXAPRO] - Lexapro 20 mg tablet. 2
Tablet(s) by mouth once a day -  (Prescribed by Other Provider:
Dr ___
LAMOTRIGINE [LAMICTAL] - Lamictal 200 mg tablet. 1 Tablet(s) by
mouth once a day -  (Prescribed by Other Provider)

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg ONE capsule(s) by mouth 
twice a day Disp #*60 Capsule Refills:*0 
3.  Senna 8.6 mg PO DAILY Duration: 2 Doses  
4.  Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 14 Days 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg ONE tablet(s) by 
mouth twice a day Disp #*28 Tablet Refills:*0 
5.  Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin 0.4 mg ONE capsule(s) by mouth Daily Disp #*21 
Capsule Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Nephrolithiasis (4mm R UVJ stone)
Bacteremia (GNR)
Urinary Tract Infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-You can expect to see occasional blood in your urine and to 
possibly experience some urgency and frequency related to the 
indwelling ureteral stent; You may also have some pain with 
voiding

-The kidney stone may or may not have been removed AND/or there 
may fragments/others still in the process of passing.

-You may experience some pain associated with spasm of your 
ureter.

-Ureteral stents MUST be removed or exchanged and therefore it 
is IMPERATIVE that you follow-up as directed. 

-Do not lift anything heavier than a phone book (10 pounds) 

-Resume your pre-admission/home medications EXCEPT as noted. You 
should ALWAYS call to inform, review and discuss any medication 
changes and your post-operative course with your primary care 
doctor.  

-IBUPROFEN (the ingredient of Advil, Motrin, etc.) may be taken 
even though you may also be taking Tylenol/Acetaminophen. You 
may alternate these medications for pain control. For pain 
control, try TYLENOL FIRST, then ibuprofen, and then take the 
narcotic pain medication as prescribed if additional pain relief 
is needed.

-Ibuprofen should always be taken with food. Please discontinue 
taking and notify your doctor should you develop blood in your 
stool (dark, tarry stools)

-You MAY be discharged home with a medication called PYRIDIUM 
that will help with the "burning" pain you may experience when 
voiding. This medication may turn your urine bright orange.

-Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool softener, NOT a laxative, and available over the counter. 
The generic name is DOCUSATE SODIUM. It is recommended that you 
use this medication.

-Do not eat constipating foods for ___ weeks, drink plenty of 
fluids to keep hydrated

-No vigorous physical activity or sports for 2 weeks 
 
Followup Instructions:
___